US06887871B2
(c) 4-Bromo-2-[[(1R)-3-chloro-1-phenylpropyl]oxy]-5-fluorobenzonitrile
This was prepared by the method of Example 43(a) using 4-bromo-2,5-difluorobenzonitrile and (R)-α-(2-chloroethyl)benzenemethanol.

reactant | 4-bromo-2,5-difluorobenzonitrile | BrC1=CC(=C(C#N)C=C1F)F | C7H2BrF2N
reactant | (R)-α-(2-chloroethyl)benzenemethanol | ClCC[C@@H](O)C1=CC=CC=C1 | C9H11ClO
product | 4-Bromo-2-[[(1R)-3-chloro-1-phenylpropyl]oxy]-5-fluorobenzonitrile | BrC1=CC(=C(C#N)C=C1F)O[C@H](CCCl)C1=CC=CC=C1 | C16H12BrClFNO
